US07847043B2
Preparation of methyl 2-dimethylbismuthanyl-2-methylpropionate
A 2.86 g quantity (28 mmole) of methyl isobutyrate was dissolved in 25 ml of THF, and the mixture was chilled to −78° C. under argon atmosphere. To the mixture was slowly added dropwise 14.0 ml (28 mmole) of lithium diisopropylamide (Aldrich Corp., 2.0M heptane.THF.ethylbenzene solution) over a period of 10 minutes. The reaction mixture was gradually heated (one hour) and thereto was added dropwise a solution of 8.9 g of dimethylbismuthanyl bromide prepared in Preparation Example 2 in 25 ml of THF between −40° C. and −30° C. The reaction mixture was further stirred until reached to 0° C. (one hour). After the solids were filtrated with quartz wool and THF was removed in a vacuum, the reaction mixture was distilled in a vacuum, giving 4.45 g (yield 46.7%) of a yellow oily product. b.p. 59° C./2.0 mmHg.

reactant | methyl isobutyrate | 28 mmole | C(C(C)C)(=O)OC | C5H10O2
reactant | lithium diisopropylamide | 28 mmole, 2.0M, 14.0 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | dimethylbismuthanyl bromide | 8.9 g | C[Bi](C)Br
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | methyl 2-dimethylbismuthanyl-2-methylpropionate | 4.45 g, yield 46.7% | C[Bi](C(C(=O)OC)(C)C)C | InChI=1S/C5H9O2.2CH3.Bi/c1-4(2)5(6)7-3;;;/h1-3H3;2*1H3;
